Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
"I can't  take care of
myself anymore."

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year old female with history of
IVDU, polysubstance abuse presents after a night of cocaine and
alcohol use reporting that she can no longer take care of 
herself
secondary to her mental illness.  On initial eval patient has
slurred speech and was drowsy through much of the interview,
becoming agitated when asked questions regarding substance use. 
The patient states she has had long standing depresion and that
her current problem is that she doesn't have DMH and needs a
group home.  She was somewhat incoherant about her recent
history, only that she did cocaine in the past day and has been
drinking alcohol, she states she needs continued help for her
mental illness and has been seen at multiple hospitals with
aftercare plans which haven't worked for one reason or another. 
She focuses on loosing DMH as the cause of her problems, not
being albe to get into a group home.  She states she is 
depressed
and can't do her usual activities such as go out and get lunch. 
She was vague on how she got here saying only the police gave 
her
a ride, but she wanted an ambulance.  She states she lives in a
domestic abuse shelter secondary to a relationship she had been
having lately.  She states she has no current outpatient 
treaters
as all of her referrals were in ___ which she no longer 
lives
in.  She states she came here looking for help but doesn't know
what kind of help would help her.

The patient reporst she has been having suicidal thinking with
multiple plans of hanging, overdosing, and that her substance 
use
was because of her mental illness.  When asked if things are bad
at home she stated "now that's an understatement."  The 
patient's
intoxication limited examination, though some information was
gathered until asked about substances when the patient became
irate and defensive, accusing all mental health providers of
focusing on her substance use when she clearly has a mental
disorder.

Patient became very upset when asked about substance use.  "Why
do all mental health providres look at that and say that's my
problem when clearly it's my pychological state causing the
substance use!  People need to start to look at the fucking
picture instead of the real isue.  If I was such a big drug
addict you think they'd be prescribing me ativan this entire
time.  My main issue is that I can't take care of myself!"

She states she has been sleeping ok, ok appetite, has been
irratable, endorsed hoplessness and helplessness.

When I left the room, several minutes later the patient was
yelling demanding to see someone who was a psychiatrist that her
needs weren't being met and hadn't seen someone who was a
psychiatrist, stating things like "He wasn't adressing my 
issues!
He asked me stupid questions like if I've ever seen the BEST
team"  She then demanded to speak to someone from psychiatry
immediately.

The patient was accompanied by a suicide note that stated "To
mom, I love you very much but cannot go on living anymore.  This
is not good.  By 4-Ever.  We will meet on the other side.  I can
not take care of myself properly anymore and I refuse to live my
life in shame.  I keep reaching for help but just can't get the
help I need.  I know deep inside I need the most major help
mentally.  Please if I don't get the long term help I need
mentally I will dye along the outside, The persona I know ? is
the person I could be proud of but I know longer ? seems have
control of my life the way I can? of myself was already one
timng.  i was proud of but it seems I  know longer can do this
alone"

 
Past Medical History:
1. Polysubstance abuse  
2. Hepatitis B  
3. Hepatitis C  
4. H/o endocarditis
5. MRSA+ skin lesions
6. Tinea Capitis
--per patient ("mild stroke, arthritis")

 
Social History:
Currently lives in domestic abuse ___, several children, 
none
in her custody, doesn't work.

Per OMR ___: "Per record, pt was born in ___ and grew up in
___. She has several children in foster or adoptive care. Pt
is currently pregnant. She lives alone in ___ housing and
is supported by ___."

Substance Abuse history:  patient reports cocaine every ___ 
months and etoh in the same
way.  She denied that she was currently intoxicated even with
positive BAL

Per OMR eval ___:
"Pt reports that she had been clean for IV Heroin for a few 
weeks
recently prior to relapse one week ago. Pt denies other drug 
use,
though her tox screen was positive for cocaine. Past evaluations
have reported dependence and abuse of benzos and ETOH, but pt
denied current.
Reports last heroin use was today at 12 ___, 0.5 grams, ___ her
usual daily use of 1.5 grams."

 
Family History:
Patient reports that the "entire
family" has mental issues, unable to clarify.

 
Physical Exam:
MENTAL STATUS EXAM 
APPEARANCE & FACIAL EXPRESSION:  laying in hospital bed asleep,
then aroused.

POSTURE: laying face down, then sat up.  
BEHAVIOR: She rubbed hands over face, appeared to be clearing
nose several times.  Became agitated at questioning regarding
substance use.
ATTITUDE: Cooperative but vague until substance abuse questions. 


SPEECH: Increased rate, increased volume, normal prosody.
MOOD: "irritated that I can't get help I need and want with my
mental health issues" 
AFFECT: labile, provocative.
THOUGHT FORM: Linear
THOUGHT CONTENT: appeared preoccupied with being accused of 
being
a substance abuser, focused on getting DMH.
ABNORMAL PERCEPTIONS:  "My mind is not clear enough, yes, I do
hear voices"  did not clarify
NEUROVEGETATIVE SYMPTOMS: see hpi, irritable, hopless, helpless
"depressed" and si/ plan
SUICIDALITY/HOMICIDALITY:  Si with plans to hang, overdose, walk
infront of traffic
INSIGHT AND JUDGMENT: poor/ poor 
COGNITIVE ASSESSMENT: Pt is awake, alert, and oriented fully,
memory ___ at 5 minutes with prompting, did not know presidents,
calculations intact with 11q in 2.75, refused MOYB, proverbs:
grass greener "I know but I can't explain it right now (rubs
head)  analogies/ similarities cat/giraffe and bike/ train "I
don't know, I can't see anything in common"  

 
Pertinent Results:
___ 05:00PM BLOOD WBC-12.7*# RBC-4.22 Hgb-11.9* Hct-35.9* 
MCV-85 MCH-28.2 MCHC-33.2 RDW-15.5 Plt ___
___ 05:00PM BLOOD Neuts-76.3* ___ Monos-3.9 Eos-0.9 
Baso-0.6
___ 04:05PM BLOOD Glucose-85 UreaN-11 Creat-0.8 Na-141 
K-4.2 Cl-102 HCO3-23 AnGap-20
___ 04:05PM BLOOD ALT-28 AST-29 AlkPhos-120* TotBili-0.3
___ 04:05PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 04:05PM BLOOD TSH-0.34

___ 04:05PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-POS amphetmn-NEG mthdone-NEG
___ 04:05PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 04:05PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
 
Brief Hospital Course:
Medical:  The patient did not have any acute medical issues 
while in the hospital. She did not demonstrate any signs of 
alcohol withdrawal.  She was continued on her medications for 
asthma.

Psychiatric: The patient was admitted to the inpatient 
psychiatric service. She was difficult to rouse in the mornings, 
often stating that she did not sleep well at night.  She was 
irritable with staff and stated that her goals for admission 
were to find housing in a group home. She became defensive when 
questioned about her substance abuse history and defensive when 
people asked her about her living situation at the domestic 
___. She did not engage in the mileu well.  She 
confirmed that on her last hospitalization at ___, a 
___ application had been filed and outpatient plans had been set 
up but she did not follow-up. When informed that keeping her in 
the hospital until she found a group home would not be possible, 
she became angry and irritable.  Attempts were made to find her 
a place in an EATS program, but a transfer could not take place 
until ___ at the earliest.  On the day of discharge (___), 
the patient found out from the domestic violence ___ where 
she had been residing that they were willing to take her back 
and insisted that she wanted to be discharged. As she stated she 
was not feeling suicidal, stated that if she felt suicidal, she 
would call Arbour or go to an emergency department, and because 
of the questionable nature of her self-reported chronic 
suicidality, it was felt that she was safe for discharge.  The 
plan was made to discharge her with a bridging appointment in 
place for her to follow up with Dr. ___ at ___ on 
___ on ___ at 2 ___ and to be called by our staff 
with information on outpatient follow-up.  She was discharged 
with scripts for her outpatient medications for a two-week 
supply.  
 
Medications on Admission:
Patient reports
Ativan 1mg po TID
Seroquel 125mg TID and 325mg HS for a total of 700 daily
Asprin 81
Naprosyn 875 BID

She gets her medications ativan filled at "Mongolis" in ___
and ___ other medications at any ___ she chooses.

 
Discharge Medications:
1. Quetiapine 25 mg Tablet Sig: Five (5) Tablet PO TID (3 times 
a day).
Disp:*210 Tablet(s)* Refills:*0*
2. Quetiapine 300 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).
Disp:*14 Tablet(s)* Refills:*0*
3. Quetiapine 25 mg Tablet Sig: One (1) Tablet PO at bedtime.
Disp:*14 Tablet(s)* Refills:*0*
4. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).
Disp:*42 Tablet(s)* Refills:*0*
5. Naproxen 250 mg Tablet Sig: Two (2) Tablet PO Q12H (every 12 
hours) as needed.
Disp:*56 Tablet(s)* Refills:*0*
6. Fluticasone-Salmeterol 100-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).
Disp:*60 Disk with Device(s)* Refills:*2*
7. Albuterol 90 mcg/Actuation Aerosol Sig: ___ Puffs Inhalation 
Q6H (every 6 hours) as needed for shortness of breath.
Disp:*1 inhaler* Refills:*0*
8. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*14 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Polysubstance abuse
By history: bipolar disorder, panic disorder, PTSD

 
Discharge Condition:
Mood improved; Affect cooperative, pleasant. Denies feeling 
suicidal or homicidal. Appears able to care for self.  Denies 
AH/VH. No overt delusions noted.  Mild paranoia regarding others 
talking about her which patient states is chronic.  

 
Discharge Instructions:
Please return to an emergency department if you are feeling 
suicidal or are thinking of harming yourself. Please follow up 
with your appointment with Dr. ___ as scheduled and you 
will be called with information regarding outpatient providers. 
 
Followup Instructions:
___